US07960546B2
(E)-4-Dimethylamino-but-2-enoic acid-[4-(3-chloro-4-fluoro-phenylamino)-7-((S)-tetrahydrofuran-3-yloxy)-quinazolin-6-yl]-amide
10 g of diethyl {[4-(3-chloro-4-fluoro-phenylamino)-7-((S)-tetrahydrofuran-3-yloxy)-quinazolin-6-ylcarbamoyl]-methyl}-phosphonate and 0.8 g lithium chloride are suspended in 60 ml of ethanol and cooled to −5° C. 11 g of 45% potassium hydroxide solution is added dropwise first of all and then 4.8 g dimethylaminoacetaldehyde-hydrogen sulphite adduct in 48 ml of water is added. The reaction solution is stirred for 1 h and then 60 ml of water are added. The suspension is suction filtered, washed with 40 ml of water and dried in vacuo at 45° C.

reactant | diethyl {[4-(3-chloro-4-fluoro-phenylamino)-7-((S)-tetrahydrofuran-3-yloxy)-quinazolin-6-ylcarbamoyl]-methyl}-phosphonate | 10 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(=O)CP(OCC)(OCC)=O)O[C@@H]1COCC1 | C24H27ClFN4O6P
reactant | lithium chloride | 0.8 g | [Cl-].[Li+]
reactant | potassium hydroxide | 11 g | [OH-].[K+]
reactant | dimethylaminoacetaldehyde hydrogen sulphite | 4.8 g | CN(C)CC=O.S(=O)(O)[O-]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 48 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | (E)-4-Dimethylamino-but-2-enoic acid-[4-(3-chloro-4-fluoro-phenylamino)-7-((S)-tetrahydrofuran-3-yloxy)-quinazolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(\C=C\CN(C)C)=O)O[C@@H]1COCC1 | C24H25ClFN5O3
